US05852017
a) 1-Ethyl-7-nitro-2,3(1H,4H)-quinoxalinedione
14.2 g (57 mmol) of 6-amino-1-ethyl-7-nitro-2,3(1H,4H)-quinoxalinedione (Example 30 a) were suspended in 340 ml of acetic acid. To this was added dropwise at 10°-20° C. a solution of 5.1 g (74 mmol) of sodium nitrite and 80 ml of concentrated sulfuric acid. The mixture was stirred for a further 30 minutes and then this solution was added dropwise to another suspension of 16.3 g (114 mmol) of copper(I) oxide in 140 ml ethanol. The mixture was stirred for a further 10 minutes and then poured into 1 l of ice-water. After filtration, the filtrate was extracted with methylene chloride and the organic phase was dried and concentrated under reduced pressure to yield 8.5 g (64%) of the product.

reactant | 6-amino-1-ethyl-7-nitro-2,3(1H,4H)-quinoxalinedione | 57 mmol, 14.2 g | NC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])CC)=O)=O | C10H10N4O4
reactant | sodium nitrite | 74 mmol, 5.1 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 340 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 140 ml | C(C)O | C2H6O
catalyst | copper(I) oxide | 114 mmol, 16.3 g | [Cu-]=O
product | 1-Ethyl-7-nitro-2,3(1H,4H)-quinoxalinedione | 8.5 g, 64% | C(C)N1C(C(NC2=CC=C(C=C12)[N+](=O)[O-])=O)=O | C10H9N3O4
